US07888352B2
4-(4-Fluoro-benzenesulfonyl)-piperazine-1-carboxylic acid tert-butyl ester (937 mg) was dissolved in methanol (10 ml) and dichloromethane (5 ml), 2M HCl in diethyl ether (13.6 ml) was added and the reaction mixture was stirred at room temperature overnight. Volatiles were removed in vacuo to yield 4-(4-fluoro-benzenesulfonyl)-piperazine hydrochloride salt (819 mg).

reactant | 4-(4-Fluoro-benzenesulfonyl)-piperazine-1-carboxylic acid tert-butyl ester | 937 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)F | C15H21FN2O4S
reactant | HCl | 2M | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 13.6 ml | C(C)OCC | C4H10O
product | 4-(4-fluoro-benzenesulfonyl)-piperazine hydrochloride salt | 819 mg | Cl.FC1=CC=C(C=C1)S(=O)(=O)N1CCNCC1 | InChI=1S/C10H13FN2O2S.ClH/c11-9-1-3-10(4-2-9)16(14,15)13-7-5-12-6-8-13;/h1-4,12H,5-8H2;1H
